US04618683
4-(2-Methoxy-5-methylphenyl)-butyric acid
A mixture of 4-Keto-γ-(2-methoxy-5-methylphenyl)butyric acid (123 g, 0.55 mole), HOAc (1.5 L), and H2SO4 (3.2 mL) in the presence of Pd/C catalyst (12.2 g, dry) was hydrogenated under 3 atmospheres H2 pressure for 3 hours at room temperature. The resulting solution was filtered and was evaporated to the volume of 100 mL. Water (1000 mL) was added with stirring. The solid was filtered, dried (in-vacuo), and was recrystallized from ether/hexane to yield 74 g white solid,, (64%); m+ 208.

reactant | 4-Keto-γ-(2-methoxy-5-methylphenyl)butyric acid | 0.55 mole, 123 g | O=C(CCC(=O)O)C1=C(C=CC(=C1)C)OC | C12H14O4
reactant | H2SO4 | 3.2 mL | OS(=O)(=O)O | H2O4S
catalyst | Pd/C | 12.2 g | [Pd] | Pd
solvent | HOAc | 1.5 L | CC(=O)O | C2H4O2
product | 4-(2-Methoxy-5-methylphenyl)-butyric acid | 74 g | COC1=C(C=C(C=C1)C)CCCC(=O)O | C12H16O3
